US04215139
5.5 g of 2-(p-benzoylphenoxy)ethylamine and 13 g of chloroformic acid ethyl ester are dissolved in 200 ml of acetone. 19.3 g of potassium carbonate are added to the solution and the mixture is heated under reflux with stirring for 30 hours. The mixture is then filtered and the crystals are washed with acetone. The filtrate is evaporated in vacuo. The residue is dissolved in ethyl acetate. The organic phase is washed with water, dried over sodium sulfate and evaporated in vacuo. The residue is dissolved in ether and crystallized by the addition of cyclohexane to yield 3.8 g (61%) of 2-(p-benzoylphenoxy)ethylcarbamic acid ethyl ester, m.p.--84°-86° C.

reactant | 2-(p-benzoylphenoxy)ethylamine | 5.5 g | C(C1=CC=CC=C1)(=O)C1=CC=C(OCCN)C=C1 | C15H15NO2
reactant | chloroformic acid ethyl ester | 13 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | potassium carbonate | 19.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-(p-benzoylphenoxy)ethylcarbamic acid ethyl ester | 3.8 g, 61% | C(C)OC(NCCOC1=CC=C(C=C1)C(C1=CC=CC=C1)=O)=O | C18H19NO4
